US05955548
Synthesis of 3-[3,5-bis(trifluoromethyl)phenylamino]-3-(3-methylbutylamino)-2-(4-chlorophenylsulfonyl)-2-propenenitrile
To a solution of 3,5-bis(trifluoromethyl)phenylisothiocyanate (1,44 g, 5.31 mmol) in DCM (15 mL) and acetonitrile (5 mL) first 4-chlorophenylsulfonylacetonitrile (1.10 g, 5.10 mmol) and then triethylamine (1.0 mL) were added. The resulting mixture was stirred at room temperature for 2 h 15 min, and then isoamylamine (0.65 mL, 5.59 mmol), mercury(II) oxide (2.70 g, 12.47 mmol) and magnesium sulfate (0.8 g) were added. Stirring was continued for 2 d. The mixture was then filtered, poured into a mixture of ice-water (200 mL) and concentrated hydrochloric acid (2 mL), phases were separated, the aqueous layer was extracted twice with DCM (20 mL) and the combined extracts were dried (magnesium sulfate) and concentrated. Column chromatography of the residue (100 g silica gel, gradient elution with heptane/ethyl acetate 10:0 to 3:1) gave 317 mg (12%) of the title compound as an oil. 1H NMR (300 MHz, DMSO-d6): δ=0.79 (d, J=7 Hz, 6H), 1.39 (q, J=7 Hz, 2H), 1.50 (nonett, J=7 Hz, 1H), 3.31 (m, 2H), 7.27 (s, 2H), 7.67-7.80 (m, 5H), 8.13 (s, br, 1H), 9.76 (s, 1H); LCMS: elution at 16.23 min, MH+ : 540.

reactant | 3,5-bis(trifluoromethyl)phenylisothiocyanate | 5.31 mmol, 1,44 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
reactant | acetonitrile | 5.10 mmol, 5 mL, 1.10 g | C(C)#N | C2H3N
reactant | isoamylamine | 5.59 mmol, 0.65 mL | C(CC(C)C)N | C5H13N
reactant | magnesium sulfate | 0.8 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | mercury(II) oxide | 12.47 mmol, 2.70 g | [Hg]=O
solvent | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
product | 3-[3,5-bis(trifluoromethyl)phenylamino]-3-(3-methylbutylamino)-2-(4-chlorophenylsulfonyl)-2-propenenitrile | 317 mg, 12% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)NCCC(C)C)(F)F | C22H20ClF6N3O2S
